US06586592B2
Step 4: Preparation of Tert-Butyl 4-[3-nitro-4-(phenylsulfonyl)phenyl]-1-piperazinecarboxylate
To a solution of 1-[3-nitro-4-(phenylsulfonyl) phenyl]piperazine (1.5 g, 4.3 mmol) and NaOH (0.38 g, 9.5 mmol) in 64 mL of a 1:1 THF:H2O solvent system is added a solution of di-tert-butyl dicarbonate (1.0 g, 4.7 mmol) in 5 mL of THF. The solution is stirred at rt for 16 h. The mixture is neutralized with 6 N HCl and 25 mL of EtOAc is added. The layers are separated and the aqueous layer is extracted with EtOAc (3×25 mL). The combined organics are dried over MgSO4, filtered, and concentrated. Recrystallization from EtOAc/hexane gives 1.7 g (87%) of the title compound as solid, mp 190-191° C.

reactant | 1-[3-nitro-4-(phenylsulfonyl) phenyl]piperazine | 4.3 mmol, 1.5 g | [N+](=O)([O-])C=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)N1CCNCC1 | C16H17N3O4S
reactant | NaOH | 9.5 mmol, 0.38 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.7 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | HCl | 6 N | Cl | ClH
solvent | THF | 64 mL | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | Tert-Butyl 4-[3-nitro-4-(phenylsulfonyl)phenyl]-1-piperazinecarboxylate | 1.7 g, 87% | [N+](=O)([O-])C=1C=C(C=CC1S(=O)(=O)C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C21H25N3O6S
